US07183411B2
In Scheme 12, the 8-methylisoquinoline (obtained as described above) is nitrated with a suitable nitrating agent such as potassium nitrate in sulfuric acid or a mixture of nitric acid, sulfuric acid and acetic acid to yield 5-nitro-8-methylsioquinoline, which is reduced and then acetylated to give the N-(8-methyl-isoquinolin-5-yl)-acetamide. This amide may be brominated by a radical brominating agent such as N-bromosuccinimide/benzoyl peroxide to give the dibromo isoquinoline acetamide. The dibromo intermediate may then be hydrolyzed in the presence of base to yield the deprotected aldehyde aminoisoquinoline, which may be further elaborated by the chemistry illustrated in Schemes 5 and 6 to the target ureas.

reactant | 8-methylisoquinoline | CC=1C=CC=C2C=CN=CC12 | C10H9N
reactant | potassium nitrate | [N+](=O)([O-])[O-].[K+]
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | N-(8-methyl-isoquinolin-5-yl)-acetamide | CC=1C=CC(=C2C=CN=CC12)NC(C)=O | C12H12N2O
